Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim / Aleve
 
Attending: ___.
 
Chief Complaint:
Admission to initiate C1 da-EPOCH for "Triple Hit" Diffuse Large 
B Cell Lymphoma 

 
Major Surgical or Invasive Procedure:
___ - ___ R axillary lymph node biopsy 
___ - ___ Port exchange for double lumen port 

 
History of Present Illness:
HPI: Mr. ___ is a ___ year-old man with newly-diagnosed
"Triple Hit" Diffuse Large B Cell Lymphoma (diagnosed ___
with Diffuse Large B Cell Lymphoma with rearrangements in MYC,
BCL2, and BCL6 via thoracentesis and possibly right axillary 
core
biopsy at ___, staging PET c/w Stage IV given
extranodal disease in pleura, possible LUL and small bowel, B
symptoms present), CAD, T2DM, HTN, HLD, PAD, CKD, who is being
directly admitted from ___ clinic for initiation of 
da-EPOCH
and lumbar puncture with intrathecal methotrexate.

He initially presented to ___ in ___ with
hoarseness and cough. CT chest demonstrated L infrahilar mass up
to 6.5cm in diameter as well as multiple nodules in the RLL,
irregular pleura thickening, and numerous markedly enlarged 
lymph
nodes. He subsequently underwent thoracentesis and possible R
axillary lymph node biopsy which demonstrated DLBC lymphoma with
rearrangements in MYC, BCL2, and BCL6. He was discharged home on
a prednisone taper. PET CT from ___ demonstrated extranodal
disease involvement of the pleura and possibly LUL and small
bowel. He was subsequently referred to ___ for further
management. He presented to clinic on the day of admission ___
for initial evaluation by Dr. ___. He received 1L IVF in
clinic for hypercalcemia and decision was made to admit directly
for expedited chemo.

Upon arrival to the floor, he endorses the above history. He
reports hoarseness and non-productive cough, as well as a 20
pound unintentional weight loss over the past ___ weeks. He has
no shortness of breath while sitting or lying flat, but does
become short of breath if he walks up more than 4 stairs. He
denies any fevers, chills, nightsweats, chest pain, abdominal
pain, nausea, vomiting, diarrhea.  

Review of Systems:  
(+) Per HPI.
Denies fever, chills, night sweats, headache, vision changes,
rhinorrhea, congestion, sore throat, cough, shortness of breath,
chest pain, abdominal pain, nausea, vomiting, diarrhea,
constipation, BRBPR, melena, hematochezia, dysuria, hematuria. 
 

 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
~ ___: In ___ started to have fatigue, weakness, falls,
dizziness. 
- ___: Admitted to ___ with hoarseness and
cough. CT chest shows an irregular mass-like density in the left
infrahilar region, measuring up to 6.5 cm in diameter, as well 
as
multiple nodular opacities in the right lower lobe, irregular
pleural thickening in the left hemithorax, numerous markedly
enlarged mediastinal and bilateral hilar lymph nodes with a 
large
conglomerate in the precarinal region, and multiple markedly
enlarged right axillary lymph nodes. 
- ___: Evaluated by Dr. ___ Hematology/Oncology, who
recommends biopsy. 
- ___: Undergoes thoracentesis and possible right axillary
lymph node biospy at ___. Per report this
demonstrates Diffuse Large B Cell Lymphoma with rearrangements 
in
MYC, BCL2, and BCL6, i.e. "Triple Hit" DLBCL. 
- ___: Discharged to home on prednisone taper. 
- ___: PET scan at ___ reveals pronounced
uptake within extensive supraclavicular, internal mammary,
mediastinal, hilar, paraesophageal, left epicardial, mesenteric,
and retroperitoneal lymph nodes consistent with malignancy.
Uptake is also seen within nodular pleural-based soft tissue in
the left hemithorax. Small left pleural effusion. Uptake within 
a
small left upper lobe nodule. Small area of uptake within the
mesentery of the pelvis, with some apparent misregistration of
PET and CT images in this region.  Uptake as a tubular 
appearance
and may correspond to small bowel.  Lymphoma involvement of 
small
bowel may be present. Atherosclerotic changes. 
- ___: Port-a-Cath placed at ___. 
- ___: Referred to ___.
- ___: Initial evaluation by Dr. ___ the ___
team at ___. Admitted for expedited evaluation and management. 


PAST MEDICAL/SURGICAL HISTORY:  
- Chronic Renal Insufficiency
- Anemia of chronic kidney disease 
- Coronary Artery Disease 
- Diabetes Mellitus Type 2 
- Hypertension
- Hyperlipidemia
- Peripheral Arterial Disease status-post left leg bypass 
surgery
- Osteomyelitis status-post amputation of left foot toes 
- Iron deficiency
- Restless leg syndrome, on Sinemet
- Obstructive Sleep Apnea 
- Squamous cell cancer of skin status-post amputation of middle
finger in ___
- Multiple basal cell skin cancers 

 
Social History:
___
Family History:
Per previous notes, sister died of ___.
Father died of heart failure at age ___. Mother died of heart and
lung issues at age ___. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================== 
Vitals: 24 HR Data (last updated ___ @ 1714)
    Temp: 97.5 (Tm 97.5), BP: 172/78, HR: 100, RR: 20, O2 sat:
98%, O2 delivery: Ra, Wt: 164.6 lb/74.66 kg  
Gen: Pleasant, calm, in NAD.  
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
NECK: Supple. JVP not elevated at 90 degrees. 
CV: RRR. distant heart sounds. 
LUNGS: pauses every several words to take a breath. CTAB.
Rhonchorous breath sounds. No crackles.  
ABD: NABS. Soft, NT, ND.  
EXT: Extremities somewhat cool to touch L worse than R. Pitting
edema at L ankle. R foot with purple discoloration around MTP
extending up to toes. Non-tender, nonertythematous. 
SKIN: No rashes/lesions, petechiae/purpura ecchymoses.  
NEURO: A&Ox3. Moving all extremities with purpose
LINES: R port nonerythematous, nontender 

DISCHARGE PHYSICAL EXAM:
======================== 
PHYSICAL EXAM: 
___ 0723 Temp: 97.9 PO BP: 119/72 HR: 97 RR: 20 O2 sat: 94%
O2 delivery: RA FSBG: 242 
Gen: Pleasant, calm, in NAD. More alert and conversational
CV: RRR. distant heart sounds. 
LUNGS: wheezing and crackles bilaterally and coarse voice
significantly improved
ABD: NABS. Soft, NT, ND.  
EXT: 1+ edema. R foot with purple discoloration around MTP
extending up to toes, stable from prior.
LINES: R port nonerythematous, nontender. 
 
Pertinent Results:
ADMISSION LABS:
================
___ 12:00AM   GLUCOSE-160* UREA N-27* CREAT-2.6* SODIUM-141 
POTASSIUM-4.5 CHLORIDE-102 TOTAL CO2-25 ANION GAP-14
___ 12:00AM   ALT(SGPT)-<5 AST(SGOT)-8 LD(LDH)-406* ALK 
PHOS-104 TOT BILI-0.2
___ 12:00AM   ALBUMIN-3.2* CALCIUM-11.1* PHOSPHATE-4.1 
MAGNESIUM-1.6 URIC ACID-6.1 IRON-29*
___ 12:00AM   calTIBC-226* VIT B12-622 FOLATE-12 
FERRITIN-117 TRF-174*
___ 12:00AM   NEUTS-85.3* LYMPHS-3.7* MONOS-7.4 EOS-2.8 
BASOS-0.2 IM ___ AbsNeut-7.88* AbsLymp-0.34* AbsMono-0.68 
AbsEos-0.26 AbsBaso-0.02
___ 12:00AM   PLT COUNT-357
___ 12:00AM   ___ PTT-31.6 ___
___ 12:00AM   RET AUT-1.7 ABS RET-0.05
___ 09:45PM URINE  HOURS-RANDOM UREA N-229 CREAT-42 
SODIUM-101
___ 09:45PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-100* KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 09:45PM URINE  RBC-1 WBC-2 BACTERIA-NONE YEAST-NONE 
EPI-<1 TRANS EPI-<1
___ 06:20PM   GLUCOSE-182* UREA N-30* CREAT-3.0* SODIUM-139 
POTASSIUM-4.7 CHLORIDE-101 TOTAL CO2-24 ANION GAP-14
___ 06:20PM   LD(LDH)-418*
___ 06:20PM   PHOSPHATE-4.5 URIC ACID-6.4
___ 03:21PM   HGB-8.5*
___ 03:21PM   G6PD QUAL-NORMAL
___ 03:21PM   RET AUT-1.6 ABS RET-0.05
___ 11:00AM   GLUCOSE-78 UREA N-31* CREAT-3.1* SODIUM-140 
POTASSIUM-4.6 CHLORIDE-100 TOTAL CO2-24 ANION GAP-16
___ 11:00AM   estGFR-Using this
___ 11:00AM   ALT(SGPT)-8 AST(SGOT)-17 LD(LDH)-496* ALK 
PHOS-105 TOT BILI-0.2
___ 11:00AM   ALBUMIN-3.5 CALCIUM-12.3* PHOSPHATE-4.5 
MAGNESIUM-1.8 URIC ACID-6.5
___ 11:00AM   TOT PROT-6.1*
___ 11:00AM   HBsAg-NEG HBs Ab-NEG HBc Ab-NEG
___ 11:00AM   CRP-49.6*
___ 11:00AM   b2micro-13.2* IgG-572* IgA-153 IgM-256*
___ 11:00AM   HIV Ab-NEG
___ 11:00AM   HCV Ab-NEG
___ 11:00AM   WBC-10.5* RBC-3.00* HGB-8.9* HCT-28.1* MCV-94 
MCH-29.7 MCHC-31.7* RDW-14.8 RDWSD-51.1*
___ 11:00AM   NEUTS-83.6* LYMPHS-4.7* MONOS-8.5 EOS-2.3 
BASOS-0.2 IM ___ AbsNeut-8.81* AbsLymp-0.49* AbsMono-0.89* 
AbsEos-0.24 AbsBaso-0.02
___ 11:00AM   PLT COUNT-396

DISCHARGE LABS:
=====================
___ 12:00AM BLOOD WBC-18.1* RBC-2.58* Hgb-7.6* Hct-23.8* 
MCV-92 MCH-29.5 MCHC-31.9* RDW-15.1 RDWSD-48.5* Plt ___
___ 12:00AM BLOOD Neuts-100* Lymphs-0* Monos-0* Eos-0* 
Baso-0 AbsNeut-18.10* AbsLymp-0.00* AbsMono-0.00* AbsEos-0.00* 
AbsBaso-0.00*
___ 12:00AM BLOOD Plt Smr-NORMAL Plt ___
___ 12:00AM BLOOD Glucose-269* UreaN-35* Creat-1.7* Na-138 
K-4.7 Cl-101 HCO3-23 AnGap-14
___ 12:00AM BLOOD LD(LDH)-301*
___ 12:00AM BLOOD Calcium-8.0* Phos-3.0 Mg-1.8

REPORTS:
======================

___ LENIS
IMPRESSION: 
1. Limited evaluation of the posterior tibial and peroneal 
veins.  No evidence 
of acutedeep venous thrombosis in the visualized left lower 
extremity veins. 
2. Eccentric echogenic material within the popliteal vein is 
nonspecific but 
most likely represents chronic nonocclusive thrombus. 

___ TTE
The left atrial volume index is normal. The right atrium is 
mildly enlarged. There is normal left ventricular wall thickness 
with a normal cavity size. There is normal regional and global 
left ventricular systolic function. The visually estimated left 
ventricular ejection fraction is 60-65%. Left ventricular 
cardiac index is high (>4.0 L/min/m2). There is no resting left 
ventricular outflow tract gradient. Normal right ventricular 
cavity size with normal free wall motion. The aortic sinus 
diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic valve leaflets (?#) are mildly 
thickened. There is no aortic valve stenosis. There is no aortic 
regurgitation. The mitral valve leaflets are mildly thickened 
with no mitral valve prolapse. There is trivial mitral 
regurgitation. The pulmonic valve leaflets are normal. The 
tricuspid valve leaflets appear structurally normal. There is 
physiologic tricuspid regurgitation. There is mild pulmonary 
artery systolic hypertension. There is no pericardial effusion. 
IMPRESSION: Suboptimal image quality. Normal left ventricular 
wall thickness and biventricular cavity sizes and 
regional/global systolic function. Mild pulmonary artery 
systolic hypertension. 

___ RENAL US
FINDINGS:  
There is no hydronephrosis, stones, or masses bilaterally. 
Normal cortical 
echogenicity and corticomedullary differentiation are seen 
bilaterally. 
Right kidney: 7.6 cm 
Left kidney: 9.4 cm 
The bladder is moderately well distended and normal in 
appearance. 
IMPRESSION:  
Normal renal ultrasound. 

___ CT CHEST
1. Large loculated left pleural effusion measures up to 14.6 x 
5.0 cm in 
greatest dimension. 
2. Adjacent to the loculated left pleural effusion there is 
opacification 
which may represent relaxation atelectasis, however 
infection/aspiration 
cannot be excluded. 
3. Right axillary, mediastinal and upper abdominal 
lymphadenopathy is 
consistent with known history of diffuse large B-cell lymphoma. 
4. Non-obstructing nephrolithiasis of the kidneys measuring up 
to 4 mm. 

___ RUE US
IMPRESSION:  
Nonocclusive thrombus within the 1 of the brachial veins in the 
distal portion of the upper arm, around the upper extremity 
PICC. 

___ RUQUS
IMPRESSION:  
1. Patent hepatic vasculature. 
2. Diffusely coarsened liver parenchyma, without focal lesion. 
3. Irregular and thickened wall in the minimally distended 
gallbladder with a 
small stone and probable adenomyomatosis. No distension or 
pericholecystic 
fluid to suggest active inflammation. 
4. Minimally dilated common bile duct. No intrahepatic biliary 
ductal 
dilatation. 

___ CT CHEST W/O CONTRAST
IMPRESSION:
1. Large loculated left pleural effusion measures up to 14.6 x 
5.0 cm in 
greatest dimension. 
2. Adjacent to the loculated left pleural effusion there is 
opacification 
which may represent relaxation atelectasis, however 
infection/aspiration 
cannot be excluded. 
3. Right axillary, mediastinal and upper abdominal 
lymphadenopathy is 
consistent with known history of diffuse large B-cell lymphoma. 
4. Non-obstructing nephrolithiasis of the kidneys measuring up 
to 4 mm. 
  
___ CT CHEST W/O CONTRAST
IMPRESSION: 
1. Overall improvement of pre-vascular and retroperitoneal 
lymphadenopathy in comparison with ___.  Severe 
infiltrative upper and lower 
paratracheal mediastinal adenopathy grossly unchanged in bulk,, 
but there is  less narrowing around of central bronchi.  No 
apparent mass effect on the SVC. 
2. Interlobular septal thickening has increased.  This in 
combination with 
peribronchial thickening and bilateral pleural effusions suggest 
worsening 
pulmonary edema. 
3. Multiple stable pulmonary nodules measuring up to 7 mm.  
Attention on 
follow-up is recommended, if appropriate. 

___ VIDEO OROPHARYNGEAL SWALLOW
Aspiration with thin liquids and penetration with thin and 
nectar thick 
liquids. 
  
___ CT CHEST W/O CONTRAST
IMPRESSION: 
1. Several centrilobular ground-glass opacities along the 
periphery of the 
right lung are new since the prior study.  Findings are 
nonspecific and likely represent infection or inflammation of 
lower airways, but these new opacities are not extensive. 
2. Continued mild improvement in Findings associated with 
neoplastic disease in the chest. 
3. Interlobular septal thickening, likely secondary to moderate 
pulmonary 
edema, appears stable.  Etiology may be due to lymphatic outflow 
obstruction rather than congestive heart failure, however, given 
infiltrative hilar masses. 
4. Multiple bilateral nodules measuring up to 7 mm are similar 
in size to the prior study from ___, however underlying 
malignancy cannot be excluded. These nodules can be reviewed in 
follow-up imaging. 

___ CXR
IMPRESSION:  
In comparison with the study ___, there is increased 
opacification at the right base with silhouetting of the 
hemidiaphragm, most likely reflecting pleural effusion with 
atelectatic changes.  Less prominent effusion and atelectasis 
are seen on the left.  Cardiomediastinal silhouette is stable. 
Although it is difficult to determine a specific area of 
consolidation, given the extensive changes described above it 
would be difficult to unequivocally exclude superimposed 
pneumonia, especially in the absence of a lateral view. The 
multiple nodular opacifications seen on CT are beyond the 
resolution limits of plain radiographs.  Similarly, it is 
difficult to described the septal thickening seen at CT. 

___ RUE ULTRASOUND
No evidence of deep vein thrombosis in the right upper 
extremity.

___ BILATERAL LOWER EXTREMITY VEIN ULTRASOUND
Limited evaluation of the calf veins.  No evidence of acutedeep 
venous 
thrombosis in the right or left lower extremity veins.   
Multiple wall 
calcifications within the right popliteal vein are seen.  
Notably, the 
previous echogenic focus within the left popliteal vein was not 
seen on 
today's examination. 

___ VIDEO OROPHARYNGEAL SWALLOW
Aspiration with thin and nectar thick liquids, and consistent 
penetration with thin and nectar thick liquids. Please note that 
a detailed description of dynamic swallowing as well as a 
summative assessment and recommendations are reported separately 
in a standalone note by the Speech-Language Pathologist (OMR, 
Notes, Rehabilitation Services). 

PATHOLOGY:
======================

___ LYMPH NODE BIOPSY
SPECIMEN: LYMPH NODE, RIGHT AXILLARY, CORE NEEDLE BIOPSY.
DIAGNOSIS:
HIGH GRADE B-CELL LYMPHOMA, NOS, WITH IGH/BCL2 REARRANGEMENT. 
SEE NOTE.
Note: Sections of a core lymph node biopsy show three distinct 
areas comprising roughly a third of the core biopsy each. One 
zone shows a lymphoid proliferation composed almost entirely of 
medium size and large lymphocytes with irregularly shaped 
nuclei, blastic chromatin, small amounts of cytoplasm and 
inconspicuous nucleoli. Frequent mitoses, including atypical 
mitoses and apoptotic cells are seen. The second zone shows a 
proliferation of smaller lymphocytes with round nuclei, blastic 
chromatin and inconspicuous nucleoli in a background of loose 
connective tissue. Yet a third zone shows complete coagulative 
necrosis. By immunohistochemistry, CD20 highlights B-cells 
occupying the vast majority of the viable tissue. CD3 and CD5 
highlights scattered interspersed T-cells and few dense large 
aggregates. CD10 is variably positive, it stain the lymphocytes 
in the zone containing medium and large cells, but not the one 
primarily made up of small lymphocytes. MUM is variably positive 
and BCL6 is diffusely positive. BCL2 is immunoreactive in all 
lymphocytes. CD21 highlights scattered background follicular 
dendritic cell meshwork remnants. CD23 and BCL1 are negative. By 
Ki67 (MIB1) staining, the proliferation index is variable, with 
the zone of larger cells showing 90-100% staining, and 70-80% in 
the zone dominated by small blastic lymphocytes. Immunostains 
for CMYC shows staining in an average of 20% of cells.
FISH: POSITIVE for IGH/BCL2 and GAIN of MYC. Approximately 50% 
of the interphase right
axillary lymph node cells examined in this high grade lymphoma 
FISH panel had probe signal
patterns consistent with ___ extra intact copies of MYC and the 
IGH/BCL2 gene rearrangement
characteristic of follicular lymphoma and diffuse large B-cell 
lymphoma of germinal center origin.
There was no evidence of rearrangements of the BCL6 and MYC 
genes.

___ IMMUNOPHENOTYPING
INTERPRETATION 
Nondiagnostic study. Cell marker analysis was performed, but was 
nondiagnostic in this case due to insufficient numbers of 
cells/insufficient amount of tissue for analysis. Clonality 
could not be assessed in this case due to insufficient numbers 
of B cells. If clinically indicated, we recommend a repeat 
specimen be submitted to the flow cytometry laboratory. 
Correlation with clinical, morphologic (see separate pathology 
report ___-___) and other ancillary (see separate cytogenetics 
report ___-___) findings is recommended. Flow cytometry 
immunophenotyping may not detect all abnormal populations due to 
topography, sampling or artifacts of sample preparation.

___ PLEURAL FLUID
Nonspecific T cell predominant lymphoid profile; diagnostic 
immunophenotypic features of involvement by leukemia/lymphoma 
are not seen in this specimen. Correlation with clinical, 
morphologic (see separate pathology report ___-___) and other 
ancillary (see separate cytogenetics report ___) findings 
is recommended. Flow cytometry immunophenotyping may not detect 
all abnormal populations due to topography, sampling or 
artifacts of sample preparation.

___ IMMUNOTYPING 
Nondiagnostic study. Cell marker analysis was performed, but was 
nondiagnostic in this case due to insufficient numbers of 
cells/insufficient amount of tissue for analysis. Clonality 
could not be assessed in this case due to insufficient numbers 
of B cells. If clinically indicated, we recommend a repeat 
specimen be submitted to the flow cytometry laboratory. 
Correlation with clinical and other ancillary (see separate 
cytogenetics report ___) findings is recommended. Flow 
cytometry immunophenotyping may not detect all abnormal 
populations due to topography, sampling or artifacts of sample 
preparation.

 
Brief Hospital Course:
===================
SUMMARY:
===================
Mr. ___ is a ___ year-old man with newly-diagnosed 
BCL2-rearranged Diffuse Large B Cell Lymphoma (diagnosed ___ 
via thoracentesis at ___, staging PET c/w Stage 
IV given extranodal disease in pleura, possible LUL and small 
bowel, B symptoms present), CAD, T2DM, HTN, HLD, PAD, CKD, who 
was directly admitted from ___ clinic for initiation of 
da-EPOCH and lumbar puncture with intrathecal chemotherapy. He 
began C1D1 da-EPOCH on ___. His hospital course was complicated 
by loculated L pleural effusion, for which chest tube was 
placed, RUE PICC-associated DVT on therapeutic Lovenox, E. coli 
bacteremia, VRE UTI, and left vocal cord paralysis. He received 
cycle 2 of R-CHOP with plan to continue chemotherapy as an 
outpatient. He was discharged in stable condition.

TRANSITIONAL ISSUES:
====================
[] Repeat echo within ___ months after the completion of 
anthracyclines.
[] Will follow-up outpatient w/ Dr. ___ in ___ 
clinic
[] Diffusely coarsened liver parenchyma on RUQUS, recommend 
follow up and consider repeat imaging 
[] Diagnosed with COPD during this admission and started on 
daily tiotropium and advair. Should have pulm follow-up as 
outpatient.
[] Sleep study so patient can obtain CPAP at home
[] Repeat iron studies, iron sat 12% on admission though 
subsequently received blood transfusions 
[] Consider increasing atorvastatin 20 given cardiac history
[] Repeat imaging in 6 months for multiple bilateral nodules 
measuring up to 7 mm noted on CT chest ___
[] Needs outpatient ENT referral for vocal cord injection
[] Discharged on novolog 20 units AM, 10 units ___. Will need 
close monitoring for titration of insulin as needed for blood 
sugar control. 
[] Discuss when to restart ASA81 and clopidogrel (held currently 
due to recent procedures and counts dropping, indication is CAD 
s/p PCI years ago)
[] Discuss when to restart statin 

======================
ACUTE MEDICAL ISSUES:
======================
#High Grade Diffuse Large B Cell Lymphoma w/ BCL2 Rearrangement
(C1D6 da-EPOCH):
He was diagnosed ___ with Diffuse Large B Cell Lymphoma via 
thoracentesis and possibly right axillary core biopsy at ___ 
___. It was initially reported to be triple hit, 
however it was ultimately determined that FISH had not been 
performed at ___. He underwent ___ biopsy of R axillary 
node on ___ with FISH demonstrating BCL2 translocation as well 
as extra MYC signals. Staging PET was consistent with Stage IV 
given extranodal disease in pleura, possible LUL and small bowel 
and B symptoms present. He was admitted from clinic for 
initiation of da-EPOCH and lumbar puncture with intrathecal 
methotrexate. He began C1D1 da-EPOCH on ___. He was monitored 
through his neutrophil nadir and his count recovered on day 18. 
He received acyclovir and atovaquone for infectious prophylaxis. 
He received filgrastim given anticipated neutrophil nadir that 
was stopped upon count recovery. He initially received 
allopurinol for TLS prophylaxis which was subsequently 
discontinued due to transaminitis. Given poor toleration of 
da-EPOCH, he was started on R-CHOP for cycle 2 which he received 
on ___ with plan for further chemotherapy as outpatient. He was 
started on filgrastim and allopurinol on ___, but filgrastim was 
stopped a few days later following a robust increase in WBC. He 
received a dose of filgrastim right before discharge in 
preparation of further chemotherapy. 

# Dyspnea
# Loculated pleural effusion
# COPD
# Productive cough
Patient found to have large left effusion on CT after CXR for 
PICC placement demonstrated effusion. He underwent chest tube 
placement on ___ which drained 1L fluid and was subsequently 
removed on ___. Pleural fluids studies were exudative effusion, 
cytology negative for malignant cells however FISH positive 
suggestive of disease involvement. Pleural fluid cx negative. 
Additionally, he had significant wheezing on exam though no 
documented history of COPD. He underwent PFTs ___ notable for 
FEV1/FVC ratio 69% consistent with COPD. He was started on daily 
tiotropium and scheduled duonebs. He continued to have 
productive cough with crackles and rhonchi on exam. He had CT 
chest ___ showing pulmonary congestion that improved with 
diuresis. Repeat CT chest ___ showed continued congestion and 
nonspecific opacities, and he was started on metronidazole for 
possible aspiration pneumonia and completed a coarse from 
___. He was discharged on advair and tiotropium for his 
COPD. He should follow up with his PCP for further evaluation, 
consideration of referral to a pulmonologist. 

# CAD s/p stenting:
# Hx PVD s/p left femoral-peroneal bypass:
# HTN:
Per pt, most recent stent ___ year ago. Cardiology was consulted 
for cardio-onc evaluation given plan for chemo regimen with 
anthracyclines as above. Baseline TTE was obtained which 
demonstrated normal EF. He will require repeat echo within ___ 
months after the completion of anthracyclines and outpatient 
follow-up with Dr. ___ in cardio-oncology. Additionally, his 
home metoprolol was transitioned to carvedilol for 
cardioprotective and antihypertensive effect. His home 
antiplatelet regimen (Plavix QOD) was discussed with cardiology, 
vascular medicine, and vascular surgery. Per vascular surgery 
there was no indication from their standpoint for antiplatelet 
agent. Plavix was held in setting of thrombocytopenia. There was 
plan to begin aspirin, which was initially held given multiple 
procedures (LP, port replacement). He was asymptomatic and blood 
pressure remained controlled BP 110-120/60-70 until discharge. 
His aspirin and Plavix were held at discharge given he will be 
receiving further chemotherapy, with plan to rediscuss starting 
them as outpatient.

# E. coli Bacteremia:
He spiked a fever to 101 on ___ and blood cultures were 
positive for E.coli. He was started on cefepime, narrowed to 
ceftriaxone, given sensitive to E.coli (cipro and Bactrim 
resistant). He remained hemodynamically stable and afebrile 
until discharge with ___ services and line care to complete the 
2-week ceftriaxone course until ___. 
[ ] continue IV ceftriaxone (2wk, ___

# UTI: Urine was cultured in setting of fever that grew 
vancomycin-resistant enterococcus. He was started on daptomycin 
given risk of serotonin syndrome with linezolid and home 
amitriptyline. He completed a 7-day course of daptomycin from 
___.

# Left vocal cord paralysis
# Aspiration risk: He presented with a hoarse voice; no 
respiratory symptoms aside from coughing. He was evaluated by 
ENT which found left vocal cord paralysis in the setting of 
hilar and mediastinal adenopathy and soft tissue encasing the 
trachea. A video swallow was performed and showed aspiration 
with thin and nectar thick liquids. He was kept on thick liquids 
using a straw with chin tuck. He was recommended to follow-up 
with ENT as an outpatient for vocal cord injection. Repeat video 
swallow was unchanged from prior. After goals of care discussion 
with patient and his wife, he was discharged home with an 
understanding of aspiration risk. He should follow up with ENT 
for further management. 

# Tremors: He was noted to have bilateral upper extremity 
tremors at rest and with movement. There was no evidence of 
withdrawal, hyperthyroidism, or focal neurologic deficits. It 
has been chronic for several months and continues to be 
nonfocal. Likely to be drug-induced (steroids) or functional or 
Parkinsonian. The tremors remained stable through discharge.

# Maculopapular rash:
He developed a nontender, non-pruritic, blanching maculopapular 
erythematous rash across his back and flanks. The rash was 
consistent with neutrophilic eccrine hidradenitis related to his 
chemotherapy medication. He was evaluated by Dermatology and no 
treatment was indicated given the rash was asymptomatic. His 
rash remained stable throughout his hospital stay.

# Transaminitis:
He developed transaminitis while in house. It was felt to be 
most likely secondary to chemotherapy. RUQUS w/ Doppler 
unremarkable. HBV, HCV serologies were negative on admission. 
EBV/CMV viral load and serologies were negative. His 
allopurinol, home statin, and Tylenol were held in the setting 
of transaminitis. His liver function tests returned to normal at 
discharge.

# RUE PICC-associated DVT:
He was found to have a RUE PICC associated DVT, of which the 
PICC was subsequently removed. LENIS with question of chronic 
non-occlusive thrombus within popliteal vein. This was discussed 
with vascular medicine and there was initially a plan to 
reimage, however he was subsequently started on enoxaparin for 
the RUE DVT. Repeat RUE ultrasound and LENIS several weeks later 
showed no evidence of clot. Given no indication for 
anticoagulation, his enoxaparin was discontinued.

# ___ on CKD III
Cr 3.1 on presentation. Baseline Cr unknown, most recently 2.3 
in ___. Suspect pre-renal in the setting of hypercalcemia. 
Renal US was obtained which was unremarkable. Cr subsequently 
improved to 2.1 with IVF. His medications were renally dosed. 

# Acute on chronic anemia:
Hgb 8.5 on admission, previously 10.9 on admission to ___ 
___ on ___. Ferritin in ___ was ___. Previously 
receiving Procrit for anemia of chronic kidney disease. Iron sat 
12%. B12, folate wnl. Retic index c/w hypoproliferation. He 
received intermittent transfusions during this hospitalization 
for Hb<7. There was no evidence of active bleeding. 

# Hypercalcemia: 
Ca ___ on admission. Most likely in the setting of lymphoma. 
PTH ___ was 12.8, PTHrP 12. His hypercalcemia resolved with 
IVF. 

# T2DM:
He required increased dose of his home insulin novolog regimen 
(home: 23u AM, 20u ___ given steroid administration. He required 
significant insulin (40u AM, 25u ___ while on steroids) and was 
discharged on novolog 20u AM, 10u ___. He will need close follow 
up to titrate his insulin. 

#Restless Leg Syndrome:
Continued home carbidopa/levodopa ___.

#Depression: 
Continued Amitriptyline 50.

#OSA:
Continued CPAP. 

#Allergies: 
Continued home cetirizine 10.

========
BUNDLE:
======== 
# CODE: DNR/DNI
# EMERGENCY CONTACT: 
 Next of Kin: ___ 
 ___: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 50 mg PO QHS 
2. Atorvastatin 20 mg PO QPM 
3. Carbidopa-Levodopa (___) 1 TAB PO DAILY 
4. Clopidogrel 75 mg PO EVERY OTHER DAY 
5. Metoprolol Succinate XL 50 mg PO DAILY 
6. Temazepam 30 mg PO QHS 
7. Acetaminophen 650 mg PO Q4H:PRN Pain - Mild/Fever 
8. Cetirizine 10 mg PO DAILY 
9. NovoLIN ___ (insulin NPH and regular human) 100 unit/mL 
(70-30) subcutaneous BID 

 
Discharge Medications:
1.  Acyclovir 400 mg PO Q12H 
RX *acyclovir 400 mg 1 capsule(s) by mouth every twelve (12) 
hours Disp #*60 Tablet Refills:*0 
2.  Albuterol Inhaler 1 PUFF IH Q6H:PRN shortness of breath 
RX *albuterol sulfate 90 mcg 1 puff inhaled every six (6) hours 
Disp #*120 Inhaler Refills:*0 
3.  Allopurinol ___ mg PO DAILY 
RX *allopurinol ___ mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  Atovaquone Suspension 1500 mg PO DAILY 
RX *atovaquone 750 mg/5 mL 10 ml by mouth once a day Disp #*6300 
Milliliter Milliliter Refills:*0 
5.  CefTRIAXone 2 gm IV Q 24H 
RX *ceftriaxone in dextrose,iso-os 2 gram/50 mL 2 gm IV once a 
day Disp #*4 Intravenous Bag Refills:*0 
6.  Filgrastim 300 mcg SC Q24H 
RX *filgrastim [Neupogen] 300 mcg/0.5 mL 300 mcg SC once a day 
Disp #*10 Syringe Refills:*5 
7.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
RX *fluticasone propion-salmeterol [Advair Diskus] 250 mcg-50 
mcg/dose 1 dose inhaled twice a day Disp #*60 Disk Refills:*0 
8.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
9.  Tiotropium Bromide 1 CAP IH DAILY 
RX *tiotropium bromide [Spiriva with HandiHaler] 18 mcg 1 cap IH 
once a day Disp #*30 Capsule Refills:*0 
10.  NovoLIN ___ (insulin NPH and regular human) 100 unit/mL 
(70-30) subcutaneous BID  
11.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild/Fever 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every four (4) 
hours Disp #*100 Tablet Refills:*0 
12.  Amitriptyline 50 mg PO QHS 
RX *amitriptyline 50 mg 1 tablet(s) by mouth at bedtime Disp 
#*30 Tablet Refills:*0 
13.  Carbidopa-Levodopa (___) 1 TAB PO DAILY 
RX *carbidopa-levodopa 25 mg-100 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0 
14.  Cetirizine 10 mg PO DAILY 
RX *cetirizine 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
15.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
16.  Temazepam 30 mg PO QHS 
RX *temazepam 30 mg 1 capsule(s) by mouth at bedtime Disp #*30 
Capsule Refills:*0 
17. HELD- Atorvastatin 20 mg PO QPM  This medication was held. 
Do not restart Atorvastatin until your doctor tells you to do so
18. HELD- Clopidogrel 75 mg PO EVERY OTHER DAY  This medication 
was held. Do not restart Clopidogrel until your doctor tells you 
to do so

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
PRIMARY DIAGNOSIS
-------------------- 
Diffuse Large B Cell Lymphoma 

SECONDARY DIAGNOSIS
-------------------- 
Vocal card paralysis
Chronic Renal Insufficiency
Coronary Artery Disease 
Diabetes Mellitus Type 2 
Hypertension
Hyperlipidemia
Obstructive Sleep Apnea 
E. coli Bacteremia
VRE Urinary Tract Infection
Acute on Chronic Anemia
Pleural Effusion
Deep Venous Thrombosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___!

WHY WAS I ADMITTED TO THE HOSPITAL?
You were admitted to the hospital to begin chemotherapy for 
treatment of your diffuse large B cell lymphoma.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
-You started on chemotherapy for your lymphoma.
-You were seen by the heart doctors because ___ have a history 
of heart disease, and some of the chemotherapy you are receiving 
can affect the heart. You will need to follow-up with them in 
clinic once you leave the hospital. 
-You were found to have a large build-up of fluid in the lining 
surrounding the lung that was making it difficult for you to 
breath. You had a tube placed in your chest to help drain this 
fluid out. Your breathing improved and the chest tube was 
removed. 
-You were diagnosed with a lung disorder called COPD. You were 
started on inhalers for this. You should follow-up with the lung 
doctors after ___ leave the hospital for this. 
-You were found to have vocal cord paralysis and at risk of 
aspiration. You were evaluated by our Speech and Swallow team to 
optimize your nutrition and prevent aspiration.

WHAT SHOULD I DO WHEN I GO HOME?
-Please take all your medications as prescribed. 
-Please follow-up with your doctor on ___. 
-Insulin regimen at discharge: novolog 20 units in the morning, 
15 units at night. 
-Please monitor your blood glucose closely and call your doctor 
if your blood glucose is <75 or >400. 
-Please talk with your cardiologist about when to restart your 
aspirin, Plavix and atorvastatin 
-You should give yourself neupogen daily until otherwise 
instructed 

We wish you the best,
Your ___ care team
 
Followup Instructions:
___